US07528143B2
A mixture of 3-bromopyridine (379 mg, 2.4 mmol), 4-amino-2-chloro-5-methylpyrimidine (287 mg, 2.0 mmol), Pd2(dba)3 (18 mg, 0.02 mmol), xantphos (23 mg, 0.04 mmol) and cesium carbonate (975 mg, 3.0 mmol) in dioxane (15 mL) was heated under refluxed for 1 h under argon. The solvent was removed and the residue on purification by HPLC gave an intermediate, 2-chloro-5-methyl-N-(pyridin-3-yl)pyrimidin-4-amine as yellow solid (252 mg, 57%). For second Buckwald, a mixture of 2-chloro-5-methyl-N-(pyridin-3-yl)pyrimidin-4-amine (80 mg, 0.36 mmol), 4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine (74 mg, 0.34 mmol), Pd2(dba)3 (3.2 mg, 0.003 mmol), xantphos (4.2 mg, 0.007 mmol) and cesium carbonate (234 mg, 0.72 mmol) in dioxane (5 mL) was heated under refluxed for 1 h under argon. The crude reaction mixture on purification using HPLC gave the title compound as light brown solid (28 mg, 20%).

reactant | 3-bromopyridine | 2.4 mmol, 379 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-amino-2-chloro-5-methylpyrimidine | 2.0 mmol, 287 mg | NC1=NC(=NC=C1C)Cl | C5H6ClN3
reactant | cesium carbonate | 3.0 mmol, 975 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.04 mmol, 23 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 2-chloro-5-methyl-N-(pyridin-3-yl)pyrimidin-4-amine | 252 mg, 57% | ClC1=NC=C(C(=N1)NC=1C=NC=CC1)C | C10H9ClN4
